* Z:\mnt\design.r\spice\examples\3871.asc
XU1 NC_01 N025 N022 N023 N005 N011 0 N007 N006 N026 N027 N014 N017 OUT N016 NC_02 N011 NC_03 NC_04 NC_05 MP_06 N020 N021 N019 N024 0 OUT MP_07 N003 MP_08 N002 MP_09 N004 MP_10 0 N015 N010 N013 N012 MP_11 NC_12 NC_13 N018 NC_14 NC_15 N008 OUT N009 LTC3871
V1 IN 0 48
M1 IN N004 N001 N001 Si7489DP
R1 N001 N002 2.2
C1 0 N003 4.7µ
M2 N001 N012 N013 N013 BSC123N08NS3 m=2
M3 N013 N015 0 0 BSC042NE7NS3 m=2
L1 N013 N008 10µ
R2 N008 OUT 3m
C2 N010 N013 .22µ
D1 N003 N010 BAT46WJ
C3 OUT N009 .22µ
R3 OUT N009 300
R4 N009 N013 3.74K
M4 N001 N020 N021 N021 BSC123N08NS3 m=2
M5 N021 N024 0 0 BSC042NE7NS3 m=2
L2 N021 N016 10µ
R5 N016 OUT 3m
C4 N019 N021 .22µ
D2 N003 N019 BAT46WJ
C5 OUT N017 .22µ
R6 OUT N017 300
R7 N017 N021 3.74K
C6 OUT 0 10µ x2
C7 OUT 0 1µ x2
C8 OUT 0 100µ x2
R8 OUT N025 90.9K
R9 N025 0 10K
R10 OUT N026 100K
R11 N026 0 10K
R12 IN N007 649K
R13 N007 0 10K
R14 IN N006 243K
R15 N006 0 10K
R16 IN N005 499K
R17 N005 0 12.7K
C9 N011 0 4.7µ
C10 N002 0 .1µ
R19 N014 0 280K
R20 N018 0 41.2K
C11 N022 0 10n
C12 N023 0 10n
C13 N027 0 10p
Rload OUT 0 .48
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC3871.sub
.backanno
.end
